US04028344
Preparation of N-[1-(t-Butylazo)-1-phenylethyl]-N'-isobutylthiourea
To 9.25 grams (0.0375 moles) of 1-t-butylazo-1-isothiocyanato-1-phenylethane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 2.75 grams (0.0375 moles) of isobutylamine. The reaction mixture was stirred for 30 minutes at room temperature at which time an infrared spectrum of the reaction mixture showed the complete absence of the isocyanate band at 2225 cm-1. The orange liquid weighed 10.2 grams (85% crude yield) and its infrared spectrum contained a strong band around 1530 cm-1.

reactant | 1-t-butylazo-1-isothiocyanato-1-phenylethane | 0.0375 moles, 9.25 grams | C(C)(C)(C)N=NC(C)(C1=CC=CC=C1)N=C=S | C13H17N3S
reactant | isobutylamine | 0.0375 moles, 2.75 grams | C(C(C)C)N | C4H11N
reactant | isocyanate | [N-]=C=O
product | N-[1-(t-Butylazo)-1-phenylethyl]-N'-isobutylthiourea | C(C)(C)(C)N=NC(C)(C1=CC=CC=C1)NC(=S)NCC(C)C | C17H28N4S
